* Created by KLayout

* cell CLKBUF_X12
* pin VSS
.SUBCKT CLKBUF_X12 5
* net 5 VSS
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 3 2 4 4 PMOS_mst L=1U W=102U AS=166.26P AD=153P PS=144.8U PD=132U
* device instance $11 r0 *1 46.1,44.8 PMOS_mst
M$11 1 3 4 4 PMOS_mst L=1U W=612U AS=918P AD=931.26P PS=792U PD=804.8U
* device instance $71 r0 *1 6.1,6.8 NMOS_mst
M$71 3 2 5 5 NMOS_mst L=1U W=34U AS=55.42P AD=51P PS=70U PD=64U
* device instance $81 r0 *1 46.1,6.8 NMOS_mst
M$81 1 3 5 5 NMOS_mst L=1U W=204U AS=306P AD=310.42P PS=384U PD=390U
.ENDS CLKBUF_X12
